US08242174B2
(R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-propionic acid methyl ester (Intermediate A3)
To a suspension of (R)-2-amino-propionic acid methyl ester (0.200 g, 1.940 mmol), 3,5-dimethyl-4-fluorophenylboronic acid (0.652 g, 3.880 mmol), Cu(OAc)2 (0.388 g, 2.134 mmol), and molecular sieves 4 Å (1.456 g) in 15 mL of dichloromethane, was added triethylamine (0.54 mL, 3.880 mmol). After stirring at room temperature under O2 for 39 h, the reaction mixture was filtered through a pad of Celite and washed with dichloromethane. The filtrate was concentrated under reduced pressure. The product was isolated by Flash chromatography (silica gel) eluting with 0-30% ethyl acetate/hexanes to give the title compound as brown oil (0.164 g, 38% yield). LC-MS: tR=8.1 min; m/z 226 (M+H)+.

reactant | (R)-2-amino-propionic acid methyl ester | 1.940 mmol, 0.200 g | COC([C@@H](C)N)=O | C4H9NO2
reactant | 3,5-dimethyl-4-fluorophenylboronic acid | 3.880 mmol, 0.652 g | CC=1C=C(C=C(C1F)C)B(O)O | C8H10BFO2
reactant | triethylamine | 3.880 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | Cu(OAc)2 | 2.134 mmol, 0.388 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-propionic acid methyl ester | 0.164 g, 38% yield | COC([C@@H](C)NC1=CC(=C(C(=C1)C)F)C)=O | C12H16FNO2
